US05108486
Following procedures similar to those employed in Step A of Example 2, the reaction of 22.3 g (0.0810 mole) of 4-iodo-2-methylphenyl isothiocyanate with 3.74 g (0.0811 mole) of methylhydrazine in 175 ml of ethanol yielded 16.7 g of 4-(4-iodo-2-methylphenyl)-2-methyl-3-thiosemicarbazide as a solid, mp 160°-161° C. The nmr spectrum was consistent with the proposed structure.

reactant | 4-iodo-2-methylphenyl isothiocyanate | 0.0810 mole, 22.3 g | IC1=CC(=C(C=C1)N=C=S)C | C8H6INS
reactant | methylhydrazine | 0.0811 mole, 3.74 g | CNN | CH6N2
solvent | ethanol | 175 ml | C(C)O | C2H6O
product | 4-(4-iodo-2-methylphenyl)-2-methyl-3-thiosemicarbazide | 16.7 g | IC1=CC(=C(C=C1)NC(N(N)C)=S)C | C9H12IN3S
